US07067517B2
Methyl-phenyl-carbamic acid 3-phenoxy-phenyl ester
The title product was prepared from 3-phenoxyphenol and N-methyl-N-phenylcarbamoyl chloride. The crude product was subjected to preparative HPLC. (79%, colourless oil).

reactant | 3-phenoxyphenol | O(C1=CC=CC=C1)C=1C=C(C=CC1)O | C12H10O2
reactant | N-methyl-N-phenylcarbamoyl chloride | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | Methyl-phenyl-carbamic acid 3-phenoxy-phenyl ester | O(C1=CC=CC=C1)C=1C=C(C=CC1)OC(N(C1=CC=CC=C1)C)=O | C20H17NO3
